US09102591B2
2-chloro-6-fluoro-N-(2-(4-fluorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide
From 2-chloro-6-fluorobenzoic acid and 2-(4-fluorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine. LCMS (MH+): m/z=441.0, tR (minutes, Method G)=2.86

reactant | 2-chloro-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | 2-(4-fluorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine | FC1=CC=C(C=C1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C14H12F4N2
product | 2-chloro-6-fluoro-N-(2-(4-fluorophenyl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)C(F)(F)F)C2=CC=C(C=C2)F)C(=CC=C1)F | C21H14ClF5N2O
